** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_top.sch
.subckt iqmod_top di_ds_I_p di_spdt_ctrl_I di_ds_I_n di_ds_Q_n di_spdt_ctrl_Q di_ds_Q_p vinp_Q vinn_Q di_lo_I di_lo_Ix voutp_I_RF
+ vinp_I vinn_I di_lo_Q di_lo_Qx voutn_I_RF voutp_Q_RF voutn_Q_RF VDD VSS di_analog_en
*.PININFO VDD:B voutp_I_RF:B VSS:B di_lo_Q:I di_lo_Qx:I di_lo_I:I di_lo_Ix:I di_ds_I_p:I voutn_I_RF:B voutp_Q_RF:B voutn_Q_RF:B
*+ di_analog_en:I vinp_I:I vinn_I:I di_spdt_ctrl_I:I di_ds_I_n:I di_ds_Q_p:I vinp_Q:I vinn_Q:I di_spdt_ctrl_Q:I di_ds_Q_n:I
x1 di_ds_I_p di_spdt_ctrl_I di_ds_I_n di_lo_I di_lo_Ix voutp_I_RF vinp_I vinn_I voutn_I_RF VDD VSS di_analog_en iqmod_top_half
x2 di_ds_Q_p di_spdt_ctrl_Q di_ds_Q_n di_lo_Q di_lo_Qx voutp_Q_RF vinp_Q vinn_Q voutn_Q_RF VDD VSS di_analog_en iqmod_top_half
.ends

* expanding   symbol:  iqmod_top_half.sym # of pins=12
** sym_path: schematic/iqmod_top_half.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_top_half.sch
.subckt iqmod_top_half di_ds_p di_spdt_ctrl di_ds_n di_lo_p di_lo_n voutp_RF vinp vinn voutn_RF VDD VSS di_analog_en
*.PININFO VDD:B voutp_RF:B VSS:B di_lo_p:I di_lo_n:I di_ds_p:I voutn_RF:B di_analog_en:I vinp:I vinn:I di_spdt_ctrl:I di_ds_n:I
x3 voutp_lpf voutn_lpf voutp_RF di_lo_p di_lo_n VDD VSS voutn_RF iqmod_mixer
x1 voutp_lpf vinp_spdt voutn_lpf vinn_spdt VDD VSS di_analog_en iqmod_mfb_lpf
x5 VDD di_spdt_ctrl VSS vinp_spdt di_ds_p vinp iqmod_spdt_switch
x6 VDD di_spdt_ctrl VSS vinn_spdt di_ds_n vinn iqmod_spdt_switch
.ends


* expanding   symbol:  iqmod_mixer.sym # of pins=8
** sym_path: schematic/iqmod_mixer.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer.sch
.subckt iqmod_mixer vinp_IF vinn_IF voutp_RF vinp_LO vinn_LO VDD VSS voutn_RF
*.PININFO VDD:B VSS:B vinp_IF:I vinn_IF:I voutp_RF:B vinp_LO:I vinn_LO:I voutn_RF:B
x2 VDD vinp_LO_buf VSS voutp_RF vinp_IF vinp_LO_inv iqmod_mixer_tg
x4 VDD vinn_LO_buf VSS voutn_RF vinn_IF vinn_LO_inv iqmod_mixer_tg
x1 VDD vinp_LO vinp_LO_buf VSS vinp_LO_inv iqmod_mixer_se2diff
x3 VDD vinn_LO vinn_LO_buf VSS vinn_LO_inv iqmod_mixer_se2diff
.ends


* expanding   symbol:  iqmod_mfb_lpf.sym # of pins=7
** sym_path: schematic/iqmod_mfb_lpf.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf.sch
.subckt iqmod_mfb_lpf voutp vinp voutn vinn VDD VSS di_filter_en
*.PININFO VDD:B VSS:B vinp:I vinn:I voutp:O voutn:O di_filter_en:I
x1 voutp voutn vinn_ota vinp_ota VDD VSS di_filter_en iqmod_mfb_lpf_ota_core_hybrid_bm
XC1a vinp_stage1 vinn_stage1 cap_cmim w=8.0e-6 l=8.0e-6 m=5 mm_ok=1
XC1b vinn_stage1 vinp_stage1 cap_cmim w=8.0e-6 l=8.0e-6 m=5 mm_ok=1
XC2a vinp_stage2 vinn_stage2 cap_cmim w=8.0e-6 l=8.0e-6 m=3 mm_ok=1
XC2b vinn_stage2 vinp_stage2 cap_cmim w=8.0e-6 l=8.0e-6 m=3 mm_ok=1
XC3a voutn vinp_ota cap_cmim w=8.0e-6 l=8.0e-6 m=1 mm_ok=1
XC3b voutp vinn_ota cap_cmim w=8.0e-6 l=8.0e-6 m=1 mm_ok=1
x2 vinp_stage1 vinp VSS iqmod_mfb_lpf_R1
x3 vinn_stage1 vinn VSS iqmod_mfb_lpf_R1
x4 vinp_stage1 vinp_stage2 VSS iqmod_mfb_lpf_R2
x5 vinn_stage1 vinn_stage2 VSS iqmod_mfb_lpf_R2
x6 vinp_ota vinp_stage2 VSS iqmod_mfb_lpf_R3
x7 vinn_ota vinn_stage2 VSS iqmod_mfb_lpf_R3
x8 voutn vinp_stage2 VSS iqmod_mfb_lpf_R4
x9 voutp vinn_stage2 VSS iqmod_mfb_lpf_R4
.ends


* expanding   symbol:  iqmod_spdt_switch.sym # of pins=6
** sym_path: schematic/iqmod_spdt_switch.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_spdt_switch.sch
.subckt iqmod_spdt_switch VDD di_spdt_ctrl VSS v_c v_b v_a
*.PININFO v_a:B v_b:B v_c:B VDD:B VSS:B di_spdt_ctrl:I
x1 VDD di_spdt_ctrl spdt_ctrl_n VSS iqmod_spdt_switch_inv
x2 VDD spdt_ctrl_n spdt_ctrl_buf VSS iqmod_spdt_switch_inv
x3 VDD spdt_ctrl_buf VSS v_c v_a spdt_ctrl_n iqmod_spdt_switch_tg
x4 VDD spdt_ctrl_n VSS v_c v_b spdt_ctrl_buf iqmod_spdt_switch_tg
.ends


* expanding   symbol:  iqmod_mixer_tg.sym # of pins=6
** sym_path: schematic/iqmod_mixer_tg.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_tg.sch
.subckt iqmod_mixer_tg VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B di_tg_ctrl:I di_tg_ctrl_n:I VDD:B VSS:B
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=108.0u l=0.13u ng=36 m=1 mm_ok=1
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=324.0u l=0.13u ng=36 m=1 mm_ok=1
XMdummy2 v_b di_tg_ctrl v_b VDD sg13_lv_pmos w=162.0u l=0.13u ng=18 m=1 mm_ok=1
XMdummy1 v_b di_tg_ctrl_n v_b VSS sg13_lv_nmos w=54.0u l=0.13u ng=18 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mixer_se2diff.sym # of pins=5
** sym_path: schematic/iqmod_mixer_se2diff.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_se2diff.sch
.subckt iqmod_mixer_se2diff VDD vin voutp VSS voutn
*.PININFO vin:I VDD:B VSS:B voutp:O voutn:O
x3 VDD VDD VSS net2 vse VSS iqmod_mixer_se2diff_tg_NF6
x8 VDD vscale1n vscale2p VSS iqmod_mixer_se2diff_inv_NF18
x5 VDD vcrossp vcrossn VSS iqmod_mixer_se2diff_inv_NF2
x6 VDD vcrossn vcrossp VSS iqmod_mixer_se2diff_inv_NF2
x2 VDD net1 vcrossp VSS iqmod_mixer_se2diff_inv_NF6
x4 VDD net2 vcrossn VSS iqmod_mixer_se2diff_inv_NF6
x7 VDD vcrossp vscale1n VSS iqmod_mixer_se2diff_inv_NF6
x1 VDD vse net1 VSS iqmod_mixer_se2diff_inv_NF6
x9 VDD vscale2p voutp VSS iqmod_mixer_se2diff_inv_NF54
x10 VDD vcrossn vscale1p VSS iqmod_mixer_se2diff_inv_NF6
x11 VDD vscale1p vscale2n VSS iqmod_mixer_se2diff_inv_NF18
x12 VDD vscale2n voutn VSS iqmod_mixer_se2diff_inv_NF54
x13 VDD vin vse VSS iqmod_mixer_se2diff_inv_NF2
x14 VDD vin vse VSS iqmod_mixer_se2diff_inv_NF2
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_hybrid_bm.sym # of pins=7
** sym_path: schematic/iqmod_mfb_lpf_ota_core_hybrid_bm.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_hybrid_bm.sch
.subckt iqmod_mfb_lpf_ota_core_hybrid_bm voutp voutn vinn vinp VDD VSS di_ota_en
*.PININFO vinp:I vinn:I VDD:B VSS:B voutp:O voutn:O di_ota_en:I
x6 VDD node_CDG voutn VSS iqmod_mfb_lpf_ota_core_inv_NF20
x7 VDD node_CDG voutp VSS iqmod_mfb_lpf_ota_core_inv_NF20
x11 VDD voutn node_EF VSS iqmod_mfb_lpf_ota_core_inv_NF20
x12 VDD voutp node_EF VSS iqmod_mfb_lpf_ota_core_inv_NF20
x9 VDD node_vinp node_BC VSS iqmod_mfb_lpf_ota_core_inv_NF10
x10 VDD node_vinn node_BC VSS iqmod_mfb_lpf_ota_core_inv_NF10
x5 VDD node_EF node_FG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x1 VDD node_BC node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x4 VDD node_BC node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x13 VDD node_EF node_FG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x8 VDD node_FG node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x14 VDD node_FG node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x2 VDD node_vinp voutn VSS iqmod_mfb_lpf_ota_core_inv_NF20
x3 VDD node_vinn voutp VSS iqmod_mfb_lpf_ota_core_inv_NF20
x16 ota_en_n_1 VDD di_ota_en VSS node_vinp VDD vinp iqmod_mfb_lpf_ota_core_spdt_switch
x17 ota_en_n_2 VDD di_ota_en VSS node_vinn VDD vinn iqmod_mfb_lpf_ota_core_spdt_switch
x15 VDD di_ota_en VSS node_CDG node_BC ota_en_n_1 iqmod_mfb_lpf_ota_core_tg
x18 VDD di_ota_en VSS node_FG node_EF ota_en_n_1 iqmod_mfb_lpf_ota_core_tg
x20 VDD di_ota_en VSS node_CDG node_BC ota_en_n_2 iqmod_mfb_lpf_ota_core_tg
x23 VDD di_ota_en VSS node_FG node_EF ota_en_n_2 iqmod_mfb_lpf_ota_core_tg
.ends


* expanding   symbol:  iqmod_mfb_lpf_R1.sym # of pins=3
** sym_path: schematic/iqmod_mfb_lpf_R1.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_R1.sch
.subckt iqmod_mfb_lpf_R1 v_b v_a VSS
*.PININFO v_a:B v_b:B VSS:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=27.0e-6 m=1 b=0 mm_ok=1
XR2 net1 net2 VSS rhigh w=0.5e-6 l=27.0e-6 m=1 b=0 mm_ok=1
XR3 net2 v_b VSS rhigh w=0.5e-6 l=27.0e-6 m=1 b=0 mm_ok=1
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=27.0e-6 m=1 b=0 mm_ok=1
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=27.0e-6 m=1 b=0 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_R2.sym # of pins=3
** sym_path: schematic/iqmod_mfb_lpf_R2.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_R2.sch
.subckt iqmod_mfb_lpf_R2 v_b v_a VSS
*.PININFO v_a:B v_b:B VSS:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=31.0e-6 m=1 b=0 mm_ok=1
XR2 net1 net2 VSS rhigh w=0.5e-6 l=31.0e-6 m=1 b=0 mm_ok=1
XR3 net2 v_b VSS rhigh w=0.5e-6 l=31.0e-6 m=1 b=0 mm_ok=1
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=31.0e-6 m=1 b=0 mm_ok=1
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=31.0e-6 m=1 b=0 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_R3.sym # of pins=3
** sym_path: schematic/iqmod_mfb_lpf_R3.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_R3.sch
.subckt iqmod_mfb_lpf_R3 v_b v_a VSS
*.PININFO v_a:B v_b:B VSS:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=59.0e-6 m=1 b=0 mm_ok=1
XR2 net1 net2 VSS rhigh w=0.5e-6 l=59.0e-6 m=1 b=0 mm_ok=1
XR3 net2 v_b VSS rhigh w=0.5e-6 l=59.0e-6 m=1 b=0 mm_ok=1
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=59.0e-6 m=1 b=0 mm_ok=1
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=59.0e-6 m=1 b=0 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_R4.sym # of pins=3
** sym_path: schematic/iqmod_mfb_lpf_R4.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_R4.sch
.subckt iqmod_mfb_lpf_R4 v_b v_a VSS
*.PININFO v_a:B v_b:B VSS:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=60.0e-6 m=1 b=0 mm_ok=1
XR2 net1 net2 VSS rhigh w=0.5e-6 l=60.0e-6 m=1 b=0 mm_ok=1
XR3 net2 v_b VSS rhigh w=0.5e-6 l=60.0e-6 m=1 b=0 mm_ok=1
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=60.0e-6 m=1 b=0 mm_ok=1
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=60.0e-6 m=1 b=0 mm_ok=1
.ends


* expanding   symbol:  iqmod_spdt_switch_inv.sym # of pins=4
** sym_path: schematic/iqmod_spdt_switch_inv.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_spdt_switch_inv.sch
.subckt iqmod_spdt_switch_inv VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_spdt_switch_tg.sym # of pins=6
** sym_path: schematic/iqmod_spdt_switch_tg.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_spdt_switch_tg.sch
.subckt iqmod_spdt_switch_tg VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=36.0u l=0.13u ng=6 m=1 mm_ok=1
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mixer_se2diff_tg_NF6.sym # of pins=6
** sym_path: schematic/iqmod_mixer_se2diff_tg_NF6.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_se2diff_tg_NF6.sch
.subckt iqmod_mixer_se2diff_tg_NF6 VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=18.0u l=0.13u ng=6 m=1 mm_ok=1
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF18.sym # of pins=4
** sym_path: schematic/iqmod_mixer_se2diff_inv_NF18.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_se2diff_inv_NF18.sch
.subckt iqmod_mixer_se2diff_inv_NF18 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=18.0u l=0.13u ng=18 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=54.0u l=0.13u ng=18 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF2.sym # of pins=4
** sym_path: schematic/iqmod_mixer_se2diff_inv_NF2.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_se2diff_inv_NF2.sch
.subckt iqmod_mixer_se2diff_inv_NF2 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF6.sym # of pins=4
** sym_path: schematic/iqmod_mixer_se2diff_inv_NF6.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_se2diff_inv_NF6.sch
.subckt iqmod_mixer_se2diff_inv_NF6 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=6.0u l=0.13u ng=6 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=18.0u l=0.13u ng=6 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF54.sym # of pins=4
** sym_path: schematic/iqmod_mixer_se2diff_inv_NF54.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mixer_se2diff_inv_NF54.sch
.subckt iqmod_mixer_se2diff_inv_NF54 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=54.0u l=0.13u ng=54 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=162.0u l=0.13u ng=54 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_inv_NF20.sym # of pins=4
** sym_path: schematic/iqmod_mfb_lpf_ota_core_inv_NF20.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_inv_NF20.sch
.subckt iqmod_mfb_lpf_ota_core_inv_NF20 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vout vin VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_inv_NF10.sym # of pins=4
** sym_path: schematic/iqmod_mfb_lpf_ota_core_inv_NF10.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_inv_NF10.sch
.subckt iqmod_mfb_lpf_ota_core_inv_NF10 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=10.0u l=1.0u ng=10 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=60.0u l=1.0u ng=10 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_inv_NF6.sym # of pins=4
** sym_path: schematic/iqmod_mfb_lpf_ota_core_inv_NF6.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_inv_NF6.sch
.subckt iqmod_mfb_lpf_ota_core_inv_NF6 VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vout vin VSS VSS sg13_lv_nmos w=6.0u l=1.0u ng=6 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=36.0u l=1.0u ng=6 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_spdt_switch.sym # of pins=7
** sym_path: schematic/iqmod_mfb_lpf_ota_core_spdt_switch.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_spdt_switch.sch
.subckt iqmod_mfb_lpf_ota_core_spdt_switch do_spdt_ctrl_n VDD di_spdt_ctrl VSS v_c v_b v_a
*.PININFO v_a:B v_b:B v_c:B VDD:B VSS:B di_spdt_ctrl:I do_spdt_ctrl_n:O
x1 VDD di_spdt_ctrl do_spdt_ctrl_n VSS iqmod_mfb_lpf_ota_core_spdt_switch_inv
x2 VDD do_spdt_ctrl_n spdt_ctrl_buf VSS iqmod_mfb_lpf_ota_core_spdt_switch_inv
x3 VDD spdt_ctrl_buf VSS v_c v_a do_spdt_ctrl_n iqmod_mfb_lpf_ota_core_spdt_switch_tg
x4 VDD do_spdt_ctrl_n VSS v_c v_b spdt_ctrl_buf iqmod_mfb_lpf_ota_core_spdt_switch_tg
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_tg.sym # of pins=6
** sym_path: schematic/iqmod_mfb_lpf_ota_core_tg.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_tg.sch
.subckt iqmod_mfb_lpf_ota_core_tg VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=36.0u l=0.13u ng=6 m=1 mm_ok=1
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_spdt_switch_inv.sym # of pins=4
** sym_path: schematic/iqmod_mfb_lpf_ota_core_spdt_switch_inv.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_spdt_switch_inv.sch
.subckt iqmod_mfb_lpf_ota_core_spdt_switch_inv VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XM1 vout vin VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_spdt_switch_tg.sym # of pins=6
** sym_path: schematic/iqmod_mfb_lpf_ota_core_spdt_switch_tg.sym
** sch_path: /foss/designs/TinyWhisper/ihp130/macros/iqmod/schematic/iqmod_mfb_lpf_ota_core_spdt_switch_tg.sch
.subckt iqmod_mfb_lpf_ota_core_spdt_switch_tg VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=36.0u l=0.13u ng=6 m=1 mm_ok=1
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6 m=1 mm_ok=1
.ends

